US07265246B2
Dissolve 2,6-difluoropyridine (5.0 mL, 5.51 mmol) in anhydrous tetrahydrofuran (30 mL) and cool to −40° C. Add a solution of phenyl lithium (1.8 M hexanes, 30.6 mL) dropwise over 5 minutes. Stir the resulting purple reaction at −40° C. for 30 minutes and bring to room temperature. Quench the reaction with water and extract the solution with ethyl acetate several times. Combine the organic extracts, dry over magnesium sulfate, filter and evaporate onto silica gel. Purification by flash column chromatography yields 2-fluoro-6-phenylpyridine 1.0 g (12%) as a yellow oil.

reactant | 2,6-difluoropyridine | 5.51 mmol, 5.0 mL | FC1=NC(=CC=C1)F | C5H3F2N
reactant | phenyl lithium | 1.8 M, 30.6 mL | C1(=CC=CC=C1)[Li]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-fluoro-6-phenylpyridine | 1.0 g, 12% | FC1=NC(=CC=C1)C1=CC=CC=C1 | C11H8FN
